US04618713
Chlorine (76.0 grams, 1.07 mol) was bubbled into a mechanically stirred solution of 221.0 grams (1.00 mol) of 2-(methylthiomethyl)-6-(trifluoromethyl) aniline in 2 liters of ethylene dichloride over 60 minutes while maintaining the reaction temperature below 20° C. The mixture was then heated to 60° C. while maintaining a steady stream of HCl bubbling through. Water (25 ml, 1.4 mol) was added and the HCl treatment was maintained at 60° C. for 15 minutes at which point a clear solution was obtained. Excess water was removed by azeotropic distillation (780 ml of solvent were removed) and the resulting solution was cooled to 0° C. with a steady stream of HCl bubbling through to precipitate the anilinium chloride salt. Filtration, washing of the solids with 150 ml. of cold ethylene dichloride and air-drying gave 228.0 grams (92.7%) of off-white 2-(chloromethyl)-6-(trifluoromethyl) anilinium chloride.

reactant | Chlorine | 1.07 mol, 76.0 grams | ClCl | Cl2
reactant | 2-(methylthiomethyl)-6-(trifluoromethyl) aniline | 1.00 mol, 221.0 grams | CSCC1=C(N)C(=CC=C1)C(F)(F)F | C9H10F3NS
reactant | HCl | Cl | ClH
reactant | Water | 1.4 mol, 25 ml | O | H2O
solvent | ethylene dichloride | 2 liters | C(CCl)Cl | C2H4Cl2
product | 2-(chloromethyl)-6-(trifluoromethyl) anilinium chloride | 228.0 grams, 92.7% | [Cl-].ClCC1=C([NH3+])C(=CC=C1)C(F)(F)F | InChI=1S/C8H7ClF3N.ClH/c9-4-5-2-1-3-6(7(5)13)8(10,11)12;/h1-3H,4,13H2;1H
